US20010041740A1
First, 4.6 g (20 mmol) of 2,2-dichloro-4-trifluoromethylaniline was dissolved in 100 ml of dichloromethane, to which 6.2 g (20 mmol) of pentafluoropropionic anhydride was added under ice cooling, and the mixture was stirred at room temperature for 18 hours. The solvent was distilled out under reduced pressure, followed by addition of hexane to the residue, and the precipitated solids were collected by filtration. The resulting solids were washed with hexane and then dried to give 4.3 g of N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionamide.

reactant | 2,2-dichloro-4-trifluoromethylaniline | 20 mmol, 4.6 g | ClC1(C(N)C=CC(=C1)C(F)(F)F)Cl | C7H6Cl2F3N
reactant | pentafluoropropionic anhydride | 20 mmol, 6.2 g | FC(C(C(=O)OC(C(C(F)(F)F)(F)F)=O)(F)F)(F)F | C6F10O3
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionamide | 4.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NC(C(C(F)(F)F)(F)F)=O | C10H3Cl2F8NO
